US08119834B2
Next, 0.03 g of Pd(OAc)2 and 3.5 g of 1-(5-bromo-2-methoxyphenyl) adamantane were added to the mixture, followed by 25 mL of tetrahydrofuran in order to improve agitation, and the mixture was heated at reflux for approximately 24 hours. The resulting mixture was then evaporated to dryness and poured into 103 mL of 0.015 N HCl. Next, 150 mL of dichloromethane and 100 mL of water were added to yield a mixture consisting of a solid, an aqueous layer and an organic layer. The mixture was then filtered to separate the solid, the aqueous layer was discarded, and the organic layer was washed with 200 mL of water and decanted again. This process was repeated twice on the filtered solid. The three collected organic layers were evaporated to dryness, washed in methanol, and dried to yield 2.1 g of 3,3′-diadamantyl-4,4′-dimethoxybiphenyl (yield: 39.9%). Analytical data: Melting point: 288.1-289.1° C.; Elemental analysis: C 83.63%, H 8.73%; 1H-NMR (300 MHz, CDCl3): δ 1.78 (broad s, 12H), 2.08 (broad s, 6H), 2.15 (broad s, 12H), 3.86 (s, 6H), 6.92 (dm, 2H, J=8.1 Hz), 7.34 (dd, 2H, J=2.4, 8.1 Hz), 7.39 (d, 2H, J=2.4 Hz); 13C-NMR (75.4 MHz, CDCl3): δ 29.2, 37.1, 37.2, 40.6, 55.1, 111.9, 125.0, 125.5, 134.0, 138.5, 157.8; MS (EI, 70 eV): m/z=484 (6), 483 (36), 412 (1,100), 410 (5), 347 (8), 135 (22), 107 (7), 93 (14), 79 (17), 67 (9), 55 (6); IR (Selected absorption bands): 2992, 2964, 2898, 2850, 1603 cm−1.

reactant | 1-(5-bromo-2-methoxyphenyl) adamantane | 3.5 g | BrC=1C=CC(=C(C1)C12CC3CC(CC(C1)C3)C2)OC | C17H21BrO
catalyst | Pd(OAc)2 | 0.03 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 3,3′-diadamantyl-4,4′-dimethoxybiphenyl | 2.1 g, yield: 39.9% | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)C2=CC(=C(C=C2)OC)C23CC1CC(CC(C2)C1)C3 | C34H42O2
